### ISSUE TITLE
`rw` and `simp` do not invoke tactics specified in auto-params

### ISSUE THREAD

**Issue by leodemoura** [leanprover/lean4#3475]
Here is mwe provide by Jireh Loreaux.
```lean
theorem foo (m : Nat) (h : m.succ = 1 := by assumption) : m.succ = 1 := h

theorem foo' (m : Nat) (h : m.succ = 1) : m.succ = 1 := h

example (m : Nat) (h : m.succ = 1) : m.succ = 1 := by
  rw [foo'] -- succeeds, leaving the goal `⊢ m.succ = n`
  exact h

example (m : Nat) (h : m.succ = 1) : m.succ = 1 := by
  rw [foo _] -- succeeds, the autoParam fills the proof obligation

example (m : Nat) (h : m.succ = 1) : m.succ = 1 := by
  rw [foo]
  /-
  tactic 'assumption' failed

  m✝: Nat
  h: Nat.succ m✝ = 1
  m: Nat
  ⊢ Nat.succ m = 1
  -/

example (m : Nat) (h : m.succ = 1) : m.succ = 1 := by
  simp [foo _] -- succeeds, the autoParam fills the proof obligation

example (m : Nat) (h : m.succ = 1) : 1 + m.succ = 2 := by
  simp [foo] -- simp made no progress
```
The main obstacle is that to execute tactics we need to be in `TacticM`, but `simp` and `rw` implemented using `MetaM`. We had to address a similar issue for implementing custom discharge tactics for `simp`: https://github.com/leanprover/lean4/blob/master/src/Lean/Elab/Tactic/Simp.lean#L37

**Comment by j-loreaux** [comment]
I know this is only marked `P-medium`, but I'm curious to know if there is any work-in-progress on this issue. An alternative (at least in my use case) would be to allow `simp` to collect sidegoals (only for explicit arguments, not type classes) that are then returned to the user. Of course, this would be useless for a generic `simp` call, but I think it could be useful in the context of `simp only +allowSidegoals [some, specific, lemmas]`. If useful, I could create a separate RFC for that idea.

Barring this, I'll need to write my own tactic (which is possible, but not preferable if I can avoid it).

**Comment by YaelDillies** [comment]
I think this issue is really important to fix. I've written an entire discrete analysis library based on the premise that it would make lemmas about eg convolution easier to use because they would have no integrability or measurability condition, meaning that `rw` would not create side goals and `simp` would work without providing it the integrability/measurability proofs.
